* C:\Users\Micha\OneDrive\Project\P&E\400W design\Simulation\LLC.asc
M1 N001 N002 N004 N004 BSB012N03LX3
M2 N004 N005 0 0 BSB012N03LX3
C1 N006 0 44nF
L1 N006 N004 {L1} Rser=0.1
L2 0 N003 {L2} Rser=0.1
D1 N003 out D
V1 N001 0 360
V2 N005 0 PULSE(0 20 {Tdelay1} 0 0 {Ton1} {Tp1})
V3 N002 0 PULSE(0 20 {Tdelay2} 0 0 {Ton2} {Tp2})
R1 N005 0 1meg
R2 N002 N004 1meg
C2 out 0 400µF
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.param L1= { 500e-6 }
.param N12 = { 8 / 35 }
.param L2= { L1 * N12^2 }
K L1 L2 1
.param L3= { L2 }
.tran 2
.param Tp2 = { Tp1 }
.param Ton1 = { Tp1 *(  y / 100 ) }
.param Tp1 = { 1 / f1 }
.param Ton2 = { Tp2 - Ton1 }
.param Tdelay1 = { Ton2 }
.param Tdelay2 = { 0 }
.param f1 = { 55e3 }
.param y = { 50 }
.backanno
.end
